US04414214
A mixture of 300 ml of carbon disulphide, 80 g (0.60 mol) of powdered aluminium trichloride and 28.9 g (0.20 mol) of 2-chloro-1,2-benzenediol is stirred for 15 minutes at room temperature and then for 1 hour at 40°. 30.9 g (0.220 mol) of benzoyl chloride are then added over a period of 10 minutes and the whole is stirred for a further 15 minutes at 40° and heated in order slowly to distil off the carbon disulphide. The dry residue is then heated to 140° (bath temperature) in the course of 1 hour and maintained at this temperature for 31/2 hours. The brown solid mass is cooled, 300 ml of 3 N hydrochloric acid and 200 ml of ethyl acetate are added and the mixture is stirred until completely dissolved. The organic phase is separated off and the aqueous phase is extracted with ethyl acetate. The combined organic phases are washed with water and saturated sodium chloride solution, dried over sodium sulphate, treated with carbon and concentrated by evaporation. The dark-brown residue is dissolved in 100 ml of 1,2-dichloroethane, 105 ml of n-hexane are added and the whole is triturated until crystallisation takes place. The crystals are filtered with suction and recrystallized from dichloroethane/hexane. The (2-chloro-4,5-dihydroxyphenyl)phenylmethanone, obtained in the form of white crystals (melting point 130°-135°), can be further reacted directly.

reactant | aluminium trichloride | 0.60 mol, 80 g | [Cl-].[Cl-].[Cl-].[Al+3]
reactant | 2-chloro-1,2-benzenediol | 0.20 mol, 28.9 g | ClC1(C(C=CC=C1)O)O | C6H7ClO2
reactant | benzoyl chloride | 0.220 mol, 30.9 g | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
solvent | carbon disulphide | 300 ml | C(=S)=S | CS2
product | (2-chloro-4,5-dihydroxyphenyl)phenylmethanone | ClC1=C(C=C(C(=C1)O)O)C(=O)C1=CC=CC=C1 | C13H9ClO3
